US04049813
A suspension of 75 g. (0.348 mole) of 3-phenyl-5,N-dimethyl-isoxazole-4-carboxamide and 1 liter of tetrahydrofuran is cooled to -65° C. and 478 ml. of 1.6M n-butyllithium in hexane (0.765 mole) is added dropwise maintaining the temperature between -60° and -70° C. After the addition is complete, the orange suspension is stirred for 11/2 hours at -60° to -70° C., and then 37.2 g. (0.350 mole) of p-tolualdehyde in 375 ml. tetrahydrofuran is added dropwise maintaining the temperature between -60° and -70° C. After addition is complete the mixture is stirred for 11/2 hrs. at -60° to -70° C. and then warmed to -30° C. and quenched by the addition of saturated ammonium chloride solution. The mixture is further diluted with tetrahydrofuran and the layers are separated. The tetrahydrofuran layer is washed twice with 50% brine, and once with brine, dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo. The solid residue is triturated with a 50:50 mixture of ether:petroleum ether, filtered and washed with cold ether to give 3-phenyl-5-(4-methyl-β-hydroxyphenethyl)-N-methyl-isoxazole-4-carboxamide; m.p. 148° to 150° C.

reactant | 3-phenyl-5,N-dimethyl-isoxazole-4-carboxamide | 0.348 mole | C1(=CC=CC=C1)C1=NOC(=C1C(=O)NC)C | C12H12N2O2
reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | hexane | 0.765 mole | CCCCCC | C6H14
reactant | p-tolualdehyde | 0.350 mole | C1(=CC=C(C=C1)C=O)C | C8H8O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 liter | O1CCCC1 | C4H8O
product | 3-phenyl-5-(4-methyl-β-hydroxyphenethyl)-N-methyl-isoxazole-4-carboxamide | C1(=CC=CC=C1)C1=NOC(=C1C(=O)NC)CC(C1=CC=C(C=C1)C)O | C20H20N2O3
